US05650428
The procedure described in Example 180 was repeated, except that (S)-2-(4-bromobenzenesulfonylamino) hexanoic acid (3.64 g) and ethyl 3-aminobenzoate (1.47 ml) were condensed in dichloromethane (40 ml) in the presence of N,N'-dicyclohexylcarbodiimide (2.57 g). The reaction mixture was filtered, and the filtrate was concentrated. The resulting crude product was recrystallized from toluene to obtain (S)-2-(4-bromobenzenesulfonylamino)-N-(3-ethoxycarbonylphenyl)hexanamide (1.85 g).

reactant | (S)-2-(4-bromobenzenesulfonylamino) hexanoic acid | 3.64 g | BrC1=CC=C(C=C1)S(=O)(=O)N[C@H](C(=O)O)CCCC | C12H16BrNO4S
reactant | ethyl 3-aminobenzoate | 1.47 ml | NC=1C=C(C(=O)OCC)C=CC1 | C9H11NO2
reactant | N,N'-dicyclohexylcarbodiimide | 2.57 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | (S)-2-(4-bromobenzenesulfonylamino)-N-(3-ethoxycarbonylphenyl)hexanamide | 1.85 g | BrC1=CC=C(C=C1)S(=O)(=O)N[C@H](C(=O)NC1=CC(=CC=C1)C(=O)OCC)CCCC | C21H25BrN2O5S
